US07939524B2
b) Methyl (1R,2S,3R,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate
The intermediate (b) was prepared as described in Synthesis 2001, 11, 1719-1730. (1S,2R,3S,4R)-3-(Methoxycarbonyl)bicyclo[2.2.1]hept-5-ene-2-carboxylic acid (8.94 g, 45.57 mmol) was dissolved in anhydrous tetrahydrofuran (200 mL). The flask was degassed and backfilled with nitrogen and the mixture was cooled to 0° C. Triethylamine (19.2 mL, 136.7 mmol) was added followed by the dropwise addition of ethyl chloroformate (8.69 mL, 91.1 mmol) with vigorous stirring. Immediate precipitation was observed. The mixture was stirred at 0° C. for 1 h. Sodium azide (8.89 g, 136.7 mmol) was dissolved in water (60 mL) and added to the reaction mixture at 0° C. The mixture was stirred at 0° C. for 1 h. The ice bath was removed. The mixture was warmed to 25° C. and continued to stir for 2 h. The mixture was poured into water (400 mL) and the product extracted into ethyl acetate (400 mL). The organic layer was further washed with half-saturated aqueous sodium bicarbonate solution (2×200 mL), saturated aqueous brine solution (2×200 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a slightly brown oil. The oil was dissolved in anhydrous benzene (100 mL) and refluxed while stirring under nitrogen for 2 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a slightly brown oil. The oil was dissolved in dichloromethane (60 mL) and benzyl alcohol (5.19 mL, 50.13 mmol) was added followed by triethylamine (12.81 mL, 91.14 mmol). The mixture was refluxed under nitrogen for 16 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a golden oil. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm, 10% ethyl acetate in hexanes) afforded the desired product, methyl (1R,2S,3R,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate (10.1 g, 33.55 mmol, 74%), as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 1.38 (1H, d, J=8.7 Hz), 1.50 (1H, d, J=8.4 Hz), 3.10 (2H, s), 3.21 (1H, d, J=8.8 Hz), 3.53 (3H, s), 4.59-4.64 (1H, m), 5.07 (2H, q, J=13.0 Hz), 5.29 (1H, d, J=8.3 Hz), 6.15-6.17 (1H, m), 6.37-6.38 (1H, m), 7.27-7.36 (5H, m). LC-MS (ESI) calcd for C17H19NO4 301.13, found 258.1 (100%), 302.2 [M+H+] (70%), 603.5 [2M+H+] (20%).

reactant | (1S,2R,3S,4R)-3-(Methoxycarbonyl)bicyclo[2.2.1]hept-5-ene-2-carboxylic acid | 45.57 mmol, 8.94 g | COC(=O)[C@@H]1[C@@H]([C@@H]2C=C[C@H]1C2)C(=O)O | C10H12O4
reactant | Triethylamine | 136.7 mmol, 19.2 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 91.1 mmol, 8.69 mL | ClC(=O)OCC | C3H5ClO2
reactant | Sodium azide | 136.7 mmol, 8.89 g | [N-]=[N+]=[N-].[Na+]
reactant | benzyl alcohol | 50.13 mmol, 5.19 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 91.14 mmol, 12.81 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | methyl (1R,2S,3R,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate | 33.55 mmol, 10.1 g, 74% | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H]([C@H]2C=C[C@@H]1C2)C(=O)OC | C17H19NO4
